US07585868B2
Synthesis of 2-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol (ZK133).
1-tert-butyl-2-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol (5 mg, 0.014 mmol) was dissolved in a solution of formic acid (2 mL) and conc. HCl (0.2 mL) and heated to reflux for 30 min. Reaction was concentrated in vacuo and purified by RP-HPLC (MeCN:H2O:0.1% TFA). ESI-MS (M+H)+ m/z calcd 228.1, found 228.3.

reactant | 1-tert-butyl-2-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol | 0.014 mmol, 5 mg | C(C)(C)(C)C1(C(C=CC=C1)C1=NNC2=NC=NC(=C21)N)O | C15H19N5O
solvent | formic acid | 2 mL | C(=O)O | CH2O2
solvent | HCl | 0.2 mL | Cl | ClH
product | 2-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol | NC1=C2C(=NC=N1)NN=C2C2=C(C=CC=C2)O | C11H9N5O
